US07163937B2
Examples 2t and 2u, Step 2: A solution of benzyl (1S,2S,4R)-4-hydroxy-2-((Z)-prop-1-enyl)cyclohexylcarbamate (6.0 g, 20.7 mmol) in methylene chloride (60 mL) was treated with imidazole (2.1 g) and cooled to 0° C. The resultant solution was charged with tert-butylchlorodimethylsilane (3.4 g, 22.8 mmol) and then stirred for 18 h at 30° C. before being quenched with water. The organic phase was separated, and the aqueous phase was extracted with methylene chloride. The combined organic phases were washed with brine, dried, filtered, and concentrated in vacuo. The residue was purified by flash chromatography to afford benzyl (1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-((Z)-prop-1-enyl)cyclohexylcarbamate (6.0 g). MS found: (M+H)+=404.

reactant | benzyl (1S,2S,4R)-4-hydroxy-2-((Z)-prop-1-enyl)cyclohexylcarbamate | 20.7 mmol, 6.0 g | O[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)\C=C/C | C17H23NO3
reactant | imidazole | 2.1 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 22.8 mmol, 3.4 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | benzyl (1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-((Z)-prop-1-enyl)cyclohexylcarbamate | 6.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)\C=C/C | C23H37NO3Si
